US05686445
N-[4-[(6,11-Dihydro-5H-dibenz[b,e]azepin-5-yl)carbonyl]phenyl]-3,4-dichlorobenzamide
As described for Example 9, 0.111 g (1.1 mmol) of 5-(4-aminobenzoyl)-6,11-dihydro-5H-dibenz[b,e]azepine in 8 ml of dichloromethane is reacted with 0.230 g of (1.1 mmol) of 2,4-dichlorobenzoyl chloride. The product is recrystallized from hexane-dichloromethane to give 0.24 g of crystals, m.p. 212°-215° C.

reactant | 5-(4-aminobenzoyl)-6,11-dihydro-5H-dibenz[b,e]azepine | 1.1 mmol, 0.111 g | NC1=CC=C(C(=O)N2C3=C(CC4=C(C2)C=CC=C4)C=CC=C3)C=C1 | C21H18N2O
reactant | 2,4-dichlorobenzoyl chloride | 1.1 mmol, 0.230 g | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
reactant | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | N-[4-[(6,11-Dihydro-5H-dibenz[b,e]azepin-5-yl)carbonyl]phenyl]-3,4-dichlorobenzamide | 0.24 g | C1=CC=CC=2N(CC3=C(CC21)C=CC=C3)C(=O)C3=CC=C(C=C3)NC(C3=CC(=C(C=C3)Cl)Cl)=O | C28H20Cl2N2O2
